2165-08-29 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 04:30, pt dangled to use urinal. ~04:35, c/o progressive weakness,
   mild [**3-19**] very dull L chest discomfort w/ nausea lasting <5 min
 EKG
   done showing no significant changes, NGT increased. 4mg IV zofran
   given. Pt appeared anxious, HD stable.  Spoke with wife with
   improvement in symptoms.
   - Heparin gtt held prior to IABP placement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.19 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-8-29**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 60 (58 - 68) bpm
   BP: 129/50(69) {117/50(69) - 146/61(82)} mmHg
   RR: 18 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 67 Inch
             Total In:
             361 mL
   PO:
             TF:
   IVF:
   361 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    400 mL
   Urine:
   400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GENERAL: In NAD. Oriented x3. Mood, affect appropriate.
   HEENT:  Sclera anicteric. PERRL, EOMI. MMM
   NECK: Pulsations visible at the angle of the jaw at 15-20%.
   CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts.
   LUNGS:  CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars. No rashes, bruising,
   jaundice.
   PULSES:
   Right: Radial 2+ DP 2+ PT 2+
   Left: Radial 2 + DP 2+ PT 2+
   Right Cath Site: No hematoma, No Bruits, No tenderness, pulses above
   .
   Labs / Radiology
   155 K/uL
   11.7 g/dL
   207 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   137 mEq/L
   33.7 %
   5.5 K/uL
        [image002.jpg]
                                  [**2165-8-28**]
                             [**2165-8-29**]  06:00 AM
   WBC
   5.9
   5.5
   Hct
   34.2
   33.7
   Plt
   160
   155
   Cr
   1.5
   1.4
   Glucose
   270
   207
   Other labs: PT / PTT / INR:13.1/88.6/1.1, CK / CKMB /
   Troponin-T:114/21/0.09, Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Cardiac Enzymes:
   CK:  202 -.> 192 -> 114
   TT: <0.01 -> 0.02
   Assessment and Plan
   Pt is a 79 year old male with hx of HTN, DM2 (on insulin), HLD, and
   severe three vessel disease on cath. Now with unstable angina with ST
   depressions V2-V4, small TT leak. Pending CT surgical intervention.
   .
   # CORONARIES: New unstable angina in setting of Cath showing severe
   three vessel disease. EKG changes with small troponin leak <0.01 to
   0.02 to 0.09, CK improved.   Received IABP this morning, doing well
   after the procedure.
   - CABG likely today. Spoke with CT surgery
 likely will occur today
   about 1pm.
   - FU CEs.
   - EKG in AM
   - Bedrest
   - Nitro drip at 0.05mg
   - Simvastatin 80mg po daily
   - Lisinopril 40mg po daily
   - Metoprolol 62.5 mg [**Hospital1 **]
   - ASA 325mg
   - Stopped heparin drip due to oozing in groin.  If surgery postponed,
   will restart.
   .
   # HTN: On the floor patient with pressure up to 160/90.
   - Change home atenolol to Metoprolol 62.5mg [**Hospital1 **]
   - Lisinopril 40mg Daily
   - DC home HCTZ
   .
   # Chronic Renal Failure: Pt at baseline (1.3
 1.5)
   - Consider Mucomyst/NaBicarb after IABP placement.
   .
   # Oozing of cath site: Patient with slight oozing of femoral site
   - Will inject with lidocaine to stop any bleeding and vasoconstrict
   # PUMP: ECHO shows persevered systolic function. LVEF >55%.
   .
   # RHYTHM: First Degree AV block, Sinus Rhythm.
   - Continue to monitor on Tele.
   .
   #  Diabetes: Previous Hgb: A1c 6.2
   - Glargine 80Units QHS, HISS, QACHS finger sticks
   - Watch sugars in AM, Pt NPO tonight.
   .
   # BPH: Stable, Continue home flomax.
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:  Glargine and HISS. QACHS finger sticks.
   Lines:  20 Gauge - [**2165-8-29**] 01:45 AM
   Prophylaxis:
   DVT: Was on Heparin gtt, will start Heparin SC TID
   Stress ulcer: Not indicated
   VAP:  Not indicated
   Comments:
   Communication:  Comments:  Wife.
   [**Name (NI) 129**] status: Full code
   Disposition: CCU pending surgical intervention.